US05716971
A mixture solution of 2-(5-bromo-2-methoxymethoxybenzoyl)-3-(1,3-dioxolan-2-yl)pyridine (4.27 g), hydrochloric acid (9 ml) and THF (81 ml) was stirred for 14 hours at room temperature. The reaction mixture was neutralized with an aqueous sodium hydroxide, followed by extraction with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution, dried (anhydrous sodium sulfate) and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluent: ethyl acetate/hexane) to give a mixture (3.22 g) of 2-(5-bromo-2-hydroxybenzoyl)-3-formylpyridine and 2-(5-bromo-2-hydroxybenzoyl)-3-(1,3-dioxolan-2-yl)pyridine (about 7:2). A mixture of the said mixture (3.22 g), ethylene glycol (560 mg), p-toluenesulfonic acid monohydrate (170 mg) and toluene (40 ml) was subjected to heating under reflux azeotropically. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution, dried (anhydrous sodium sulfate) and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluent: ethyl acetate/hexane) to give 2-(5-bromo-2-hydroxybenzoyl)-3-(1,3-dioxolan-2-yl)pyridine (2.92 g) (Compound E-2). The physical properties and spectrum data are shown in Table 16 and Table 18.

reactant | 2-(5-bromo-2-methoxymethoxybenzoyl)-3-(1,3-dioxolan-2-yl)pyridine | 4.27 g | BrC=1C=CC(=C(C(=O)C2=NC=CC=C2C2OCCO2)C1)OCOC | C17H16BrNO5
reactant | hydrochloric acid | 9 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 81 ml | C1CCOC1 | C4H8O
product | 2-(5-bromo-2-hydroxybenzoyl)-3-formylpyridine | 3.22 g | BrC=1C=CC(=C(C(=O)C2=NC=CC=C2C=O)C1)O | C13H8BrNO3
